US05643855
Preparation of (±)-2-amino-N-(2,4-dichlorophenyl)-4-hydroxybutanamide
To a stirring solution of 2,4-dichloroaniline (4.27 g, 26.37 mmol), in anhydrous methylene chloride (100 mL) under N2 at 0° C. (ice-water bath), was added dropwise, trimethylaluminum (39.56 mL of a 2M solution in hexane, 79.11 mmol). The resultant mixture was stirred under N2 at room temperature for 24 h. The mixture was cooled and (±)-α-amino-γ-butyrolactone hydrobromide (39.56 mL, 74.11 mmol, Aldrich Chemical Co., Milwaukee, Wis.) was then added portionwise and the reaction mixture then allowed to stir at room temperature for 48 h. The reaction mixture was cooled to 0° C., treated with 6N hydrochloric acid until the pH of the mixture was 2 to 3. The resultant solid was filtered and suspended in 100 mL of water. The suspension was made basic with 50% aqueous NaOH (pH=13) and 300 mL of methylene chloride was added. The organic layer was separated, dried over magnesium sulfate and evaporated under reduced pressure. The residue obtained was chromatographed on silica gel eluting with 50% ethyl acetate in hexane. The desired fractions were combined and evaporated under reduced pressure to give the title compound as a white solid (2.3 g, 36%), mp 89°-91° C. IR (Nujol, cm-1), C=O (1658), N--H (3323.9), OH (3265.9). 1H NMR (400 MHz, CDCl3) spectrum was consistent with the title product. Analysis calculated for C10H12Cl2N2O: C, 45.65; H, 4.60; N, 10.68; Cl, 26.90; Found: C, 45.69; H, 4.60; N, 10.53; Cl, 26.70.

reactant | 2,4-dichloroaniline | 26.37 mmol, 4.27 g | ClC1=C(N)C=CC(=C1)Cl | C6H5Cl2N
reactant | trimethylaluminum | C[Al](C)C
reactant | (±)-α-amino-γ-butyrolactone hydrobromide | 74.11 mmol, 39.56 mL | Br.NC1C(=O)OCC1
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
solvent | hexane | CCCCCC | C6H14
product | (±)-2-amino-N-(2,4-dichlorophenyl)-4-hydroxybutanamide | 2.3 g, 36% | NC(C(=O)NC1=C(C=C(C=C1)Cl)Cl)CCO | C10H12Cl2N2O2
